US04330549
In a manner analogous to that described in Example 11, by the reaction of 1-ethyl-7-hydroxy-4-methyl-2-oxo-1,2-dihydroquinoline with 3-(4-benzamido-piperidino)-propyl chloride, there is obtained, in a yield of 59% of theory, 7-[3-(4-benzamido-piperidino)-propoxy]-1-ethyl-4-methyl-2-oxo-1,2-dihydroquinoline; m.p. 164°-165° C. (after recrystallization from dichloromethane/diethyl ether).

reactant | 1-ethyl-7-hydroxy-4-methyl-2-oxo-1,2-dihydroquinoline | C(C)N1C(C=C(C2=CC=C(C=C12)O)C)=O | C12H13NO2
reactant | 3-(4-benzamido-piperidino)-propyl chloride | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCCl | C15H21ClN2O
product | 7-[3-(4-benzamido-piperidino)-propoxy]-1-ethyl-4-methyl-2-oxo-1,2-dihydroquinoline | yield of 59% | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCOC1=CC=C2C(=CC(N(C2=C1)CC)=O)C | C27H33N3O3
